US06235750B1
A. N-Benzyl-2-(4-bromobenzyl)-piperidine
To a 100 mL round-bottomed flask equipped with N2 inlet were added 250 mg (0.984 mmol) 2-(4-bromobenzyl)-piperidine (prepared as described in Tetrahedron Letters, 7, 631 (1977)), 110 uL (1.08 mmol) benzaldehyde, 7 mL methanol, 74 mg (1.18 mmol) sodium cyanoborohydride, and a few drops of acetic acid. The reaction was stirred at room temperature, followed by additional benzaldehyde, sodium cyanoborohydride, and acetic acid, for a total of 16 hours then poured into dilute aqueous sodium bicarbonate solution, and extracted into ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methanol/methylene chloride as eluant, and the product further purified by conversion to the hydrochloride salt in ether followed by basification using aqueous sodium hydroxide solution to afford 175 mg (52%) of an oil.

reactant | 2-(4-bromobenzyl)-piperidine | 0.984 mmol, 250 mg | BrC1=CC=C(CC2NCCCC2)C=C1 | C12H16BrN
reactant | benzaldehyde | 1.08 mmol, 110 uL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 1.18 mmol, 74 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 7 mL | CO | CH4O
product | N-Benzyl-2-(4-bromobenzyl)-piperidine | 175 mg, 52% | C(C1=CC=CC=C1)N1C(CCCC1)CC1=CC=C(C=C1)Br | C19H22BrN
